US07615568B2
H. 3-[2-(cis-4-tert-Butoxycarbonylaminocyclohexyloxy)-4-methylthiobenzoylamino]-N-(5-chloropyridin-2-yl)pyridine-2-carboxamide
A solution of oxalyl chloride (1.6 mL, 18 mmol) and CH2Cl2 (12 mL) was added over 7 min to a solution of 2-(cis-4-tert-butoxycarbonylaminocyclohexyloxy)-4-methylthiobenzoic acid (7.00 g, 18.3 mmol), DMF (71 μL, 0.92 mmol), pyridine (1.5 mL, 18.9 mmol) and CH2Cl2 (62 mL) cooled in an ice bath. The bath was removed after the addition was complete. After 1 h the resulting yellow solution was added dropwise over 35 min to a slurry of 3-amino-N-(5-chloropyridin-2-yl)-pyridine-2-carboxamide (4.48 g, 18.0 mmol), pyridine (2.2 mL, 28 mmol), and CH2Cl2 (52 mL) cooled in an ice bath. At the end of the addition the bath was removed, and the mixture became homogeneous over 10-12 min, but became opaque again within 2 h. After 4 h the mixture was poured into satd citric acid (100 mL) and water (50 mL). The organic layer was extracted with a 1:1.5 solution of satd citric acid/water (125 mL), and the combined aqueous layers were back-extracted with CH2Cl2 (50 mL). The combined organic layers were rinsed with 25% NaCl (50 mL), heated to reflux on a steam bath to dissolve residual solids, dried (Na2SO4) and concentrated to a bright yellow solid (12.30 g) which was purified by flash chromatography (5% EtOAc/CH2Cl2, followed by 10% EtOAc/CH2Cl2) to provide 8.98 g (80%) of white foam.

reactant | oxalyl chloride | 18 mmol, 1.6 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-(cis-4-tert-butoxycarbonylaminocyclohexyloxy)-4-methylthiobenzoic acid | 18.3 mmol, 7.00 g | C(C)(C)(C)OC(=O)N[C@H]1CC[C@H](CC1)OC1=C(C(=S)O)C=CC(=C1)C | C19H27NO4S
reactant | pyridine | 18.9 mmol, 1.5 mL | N1=CC=CC=C1 | C5H5N
reactant | 3-amino-N-(5-chloropyridin-2-yl)-pyridine-2-carboxamide | 18.0 mmol, 4.48 g | NC=1C(=NC=CC1)C(=O)NC1=NC=C(C=C1)Cl | C11H9ClN4O
reactant | pyridine | 28 mmol, 2.2 mL | N1=CC=CC=C1 | C5H5N
catalyst | DMF | 0.92 mmol, 71 μL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 52 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 62 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 12 mL | C(Cl)Cl | CH2Cl2
product | 3-[2-(cis-4-tert-Butoxycarbonylaminocyclohexyloxy)-4-methylthiobenzoylamino]-N-(5-chloropyridin-2-yl)pyridine-2-carboxamide | 8.98 g, 80% | C(C)(C)(C)OC(=O)N[C@H]1CC[C@H](CC1)OC1=C(C(=S)NC=2C(=NC=CC2)C(=O)NC2=NC=C(C=C2)Cl)C=CC(=C1)C | C30H34ClN5O4S
